US06545008B1
Example 25: Preparation of 5-fluoromethyl-6-methyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine hydrochloride
The same procedures as in Example 24 above were repeated using 5-hydroxymethyl-6-methyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (0.19 g, 0.5mmol) prepared in accordance with WO 98/43968, dichloromethane (5 ml), and (diethylamino)sulfur trifluoride (0.15 ml, 2.26 mmol) to afford 27 mg (14%) of the titled compound.

reactant | 5-hydroxymethyl-6-methyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 0.5mmol, 0.19 g | OCC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | C22H23FN4O
reactant | (diethylamino)sulfur trifluoride | 2.26 mmol, 0.15 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-fluoromethyl-6-methyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine hydrochloride | 27 mg, 14% | Cl.FCC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H22F2N4.ClH/c1-14-20(13-23)21(27-22(25-14)26-18-9-7-17(24)8-10-18)28-12-11-16-5-3-4-6-19(16)15(28)2;/h3-10,15H,11-13H2,1-2H3,(H,25,26,27);1H
